US05346917
A solution of 2.03 g (5.49 mmol) of 1-[[2-(diethylamino)ethyl]amino]-4-[(methylamino)methyl]thioxanthen-9-one (prepared by the method described in Example 5) and triethylamine in 45 mL of methylene chloride was cooled to 0° C. and treated with ethanesulfonyl chloride (0.74 g, 5.7 6 mmol). After 15 min at 0° C., the reaction mixture was stirred at room temperature for 72 h. The mixture was concentrated in vacuo, the residue dissolved in chloroform and purified by passing through a pad of silica gel (chloroform; then 1% triethylamine/chloroform) affording 2.43 g (96%) of N-[[1-[[2-(diethylamino)ethyl]amino]-9-oxothioxanthen-4-yl]methyl]-N-methylethanesulfonamide. The sulfonamide was recrystallized from ethyl acetate and treated with methanesulfonic acid in isopropanol to afford the product as the methanesulfonate salt, m.p. 159°-161° C.

reactant | 1-[[2-(diethylamino)ethyl]amino]-4-[(methylamino)methyl]thioxanthen-9-one | 5.49 mmol, 2.03 g | C(C)N(CCNC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)CNC)CC | C21H27N3OS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | ethanesulfonyl chloride | 6 mmol, 0.74 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | methylene chloride | 45 mL | C(Cl)Cl | CH2Cl2
product | N-[[1-[[2-(diethylamino)ethyl]amino]-9-oxothioxanthen-4-yl]methyl]-N-methylethanesulfonamide | 2.43 g, 96% | C(C)N(CCNC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)CN(S(=O)(=O)CC)C)CC | C23H31N3O3S2
